US08404672B2
To a yellow, homogeneous mixture of N-hydroxypicolinimidoyl chloride (4.67 g, 29.8 mmol) and ethyl 4,4,4-trifluorobut-2-ynoate (4.50 g, 27.1 mmol) in dichloromethane (90 mL) at room temperature was added triethylamine (7.93 mL, 56.9 mmol) slowly over 30 min. During the addition, the reaction mixture slowly became dark in color. The reaction was stirred overnight at room temperature. The solvent was removed under reduced pressure, and the residue was diluted with ether (100 mL) and washed with water (100 mL). The organic layer was collected, and the aqueous layer was extracted with ether (2×100 mL). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. By HPLC, the product mixture contained a ˜15:85 mixture of the desired isomer and its regioisomer. The mixture was purified by preparative HPLC, and the desired fractions were concentrated under reduced pressure. The residue was diluted with ethyl acetate (100 mL), washed with a saturated aqueous solution of sodium bicarbonate (100 mL), washed with brine (50 mL), and dried over anhydrous magnesium sulfate. Concentration under reduced pressure afforded ethyl 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylate (0.518 g, 1.81 mmol, 6.7% yield) as a pale yellow, viscous oil. The compound had an HPLC ret. time=2.18 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=286.9. 1H NMR (400 MHz, CDCl3) δ ppm 1.46 (t, J=7.15 Hz, 3H), 4.54 (q, J=7.03 Hz, 2H), 7.46 (ddd, J=7.53, 4.77, 1.25 Hz, 1H), 7.76-7.81 (m, 1H), 7.83-7.89 (m, 1H), and 8.78 (d, J=4.77 Hz, 1H).

reactant | N-hydroxypicolinimidoyl chloride | 29.8 mmol, 4.67 g | ON=C(C1=NC=CC=C1)Cl | C6H5ClN2O
reactant | ethyl 4,4,4-trifluorobut-2-ynoate | 27.1 mmol, 4.50 g | FC(C#CC(=O)OCC)(F)F | C6H5F3O2
reactant | triethylamine | 56.9 mmol, 7.93 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | ethyl 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylate | 1.81 mmol, 0.518 g, 6.7% yield | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)OCC | C12H9F3N2O3
